US09403801B2
1-(5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)-2,2,2-trifluoroethanone
To a suspension of 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4 (octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine (0.38 g, 1.13 mmol) and Et3N (0.35 g, 3.45 mmol) in DCM (10 mL) was added TFAA (376.6 mg, 1.79 mmol). The reaction mixture was stirred at rt overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/80) to give the title compound as a beige solid (0.20 g, 41%).

reactant | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4 (octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 1.13 mmol, 0.38 g | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CNC2)C1 | C15H20ClN7
reactant | Et3N | 3.45 mmol, 0.35 g | CCN(CC)CC | C6H15N
reactant | TFAA | 1.79 mmol, 376.6 mg | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)-2,2,2-trifluoroethanone | 0.20 g, 41% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CN(C2)C(C(F)(F)F)=O)C1 | C17H19ClF3N7O
